US04514418
A solution of 33.8 g of 2,2-dichloro-3,3-dimethylcyclopropane methanol in 200 ml of pyridine was cooled to 0° C., and 38.2 g of p-toluenesulfonyl chloride was added portionwise. The reaction mixture was left to stand for 12 hours in a refrigerator (0° C.), and then poured into 1 liter of ice water. The crystals precipitated were collected by filtration, washed with water, dried in the air, and washed with hexane to give 62 g of 2,2-dichloro-3,3-dimethylcyclopropylmethyl p-toluenesulfonate, the desired compound shown above. The melting point of the product was 96.5° to 97.5° C.

reactant | 2,2-dichloro-3,3-dimethylcyclopropane methanol | 33.8 g | ClC1(C(C1(C)C)CO)Cl | C6H10Cl2O
reactant | p-toluenesulfonyl chloride | 38.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-dichloro-3,3-dimethylcyclopropylmethyl p-toluenesulfonate | 62 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1C(C1(C)C)(Cl)Cl)C | C13H16Cl2O3S
